US08242133B2
To a mixture of 0.58 g of WSC and 5 ml of pyridine 5m1, 0.48 g of 3-chloroisonicotinic acid was added. The reaction mixture was stirred at room temperature for 25 minutes. To the reaction mixture, 0.75 g of 2-amino-4-(heptafluoroisopropyl)phenol was added and was stirred while heating at 60° C. for three hours. The reaction mixture was cooled to room temperature, the 0.24 g of 3-chloroisonicotinic acid and 0.29 g of WSC was added and stirred while heating at 60° C. for 1.5 hours and then at 80° C. for 1.3 hours. The mixture reaction was cooled to room temperature, and then concentrated under reduced pressure. Then, water was added to the residue, followed by extraction with ethyl acetate twice. The combined organic layers were washed with a saturated sodium chloride solution, was dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.90 g of 3-chloro-N-[2-hydroxy-5-(heptafluoroisopropyl)phenyl]isonicotinamide.

reactant | WSC | 0.58 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | 3-chloroisonicotinic acid | 0.48 g | ClC1=C(C(=O)O)C=CN=C1 | C6H4ClNO2
reactant | 2-amino-4-(heptafluoroisopropyl)phenol | 0.75 g | NC1=C(C=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)O | C9H6F7NO
reactant | 3-chloroisonicotinic acid | 0.24 g | ClC1=C(C(=O)O)C=CN=C1 | C6H4ClNO2
reactant | WSC | 0.29 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 3-chloro-N-[2-hydroxy-5-(heptafluoroisopropyl)phenyl]isonicotinamide | 0.90 g | ClC1=C(C(=O)NC2=C(C=CC(=C2)C(C(F)(F)F)(C(F)(F)F)F)O)C=CN=C1 | C15H8ClF7N2O2
